US04619922
A solution of 650 mg of 17α-acetoxy-9α-fluoro-11β,21-dihydroxy-6α,16α-dimethyl-4-pregnene-3,20-dione in 6.5 ml of pyridine and 3.2 ml of acetic anhydride is stirred for 2 hours at room temperature and poured on an ice water-sodium chloride solution. The mixture is filtered off and worked up as usual. After crystallization from hexane/ethyl acetate, 430 mg of 17α,21-diacetoxy-9α-monofluoro-11β-hydroxy-6α,16α-dimethyl-4-pregnene-3,20-dione is isolated, mp 194°-195° C.

reactant | 17α-acetoxy-9α-fluoro-11β,21-dihydroxy-6α,16α-dimethyl-4-pregnene-3,20-dione | 650 mg | C(C)(=O)O[C@]1(C(CO)=O)[C@@H](C[C@H]2[C@@H]3C[C@@H](C4=CC(CC[C@]4(C)[C@]3([C@H](C[C@]12C)O)F)=O)C)C | C25H35FO6
reactant | acetic anhydride | 3.2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 6.5 ml | N1=CC=CC=C1 | C5H5N
product | 17α,21-diacetoxy-9α-monofluoro-11β-hydroxy-6α,16α-dimethyl-4-pregnene-3,20-dione | 430 mg | C(C)(=O)O[C@]1(C(COC(C)=O)=O)[C@@H](C[C@H]2[C@@H]3C[C@@H](C4=CC(CC[C@]4(C)[C@]3([C@H](C[C@]12C)O)F)=O)C)C | C27H37FO7
